US07691877B2
2,6-dibromo pyridin-4-yl-N-nitroamine
2,6-dibromo pyridin-4-ylamine (11 g, 43.6 mmol) was dissolved in 100 mL of sulfuric acid at room temperature and then cooled at −5° C. 6 mL of nitric acid was added dropwise keeping the temperature between −10° C. to −5° C. and the mixture was stirred at −5° C. for 30 minutes. The mixture was then poured onto 400 mL of crushed ice. The solid formed was filtered off then dissolved in EtOAc. The residual water was removed and the organic layer was washed with 300 mL of brine, dried over magnesium sulfate and the solvent was removed in vacuo to give 12.5 g of the title product as a yellow solid.

reactant | 2,6-dibromo pyridin-4-ylamine | 43.6 mmol, 11 g | BrC1=NC(=CC(=C1)N)Br | C5H4Br2N2
reactant | nitric acid | 6 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
product | 2,6-dibromo pyridin-4-yl-N-nitroamine | 12.5 g | BrC1=NC(=CC(=C1)N[N+](=O)[O-])Br | C5H3Br2N3O2
